US04235780
To a solution of 1.06 g (3.09 mmol) of ethyl 3,3-dimethyl-5-phenylthiopentanoate in 10 mL of carbon tetrachloride was added 590 mg (4.4 mmol) of 1-chloro-2,5-pyrrolidinedione, and the mixture was stirred at room temperature for 2 hours. The mixture was filtered, and the filtrate concentrated to give ethyl 5-chloro-3,3-dimethyl-5-phenylthiopentanoate as an oil. The product was used without further purification in the reaction described in Example 3 below.

reactant | ethyl 3,3-dimethyl-5-phenylthiopentanoate | 3.09 mmol, 1.06 g | CC(CC(=S)OCC)(CCC1=CC=CC=C1)C | C15H22OS
reactant | 1-chloro-2,5-pyrrolidinedione | 4.4 mmol, 590 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | carbon tetrachloride | 10 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | ethyl 5-chloro-3,3-dimethyl-5-phenylthiopentanoate | ClC(CC(CC(=S)OCC)(C)C)C1=CC=CC=C1 | C15H21ClOS
